US06605600B1
1,3-Dipropyl-7-pyrrolidin-1-ylmethyl-3,7-dihydro-purine-2,6-dione
A solution of 1,3-dipropyl-3,9-dihydro-purine-2,6-dione (446 mg, 1.89 mmol), 37% aqueous formaldehyde (1.2 eq, 2.26 mmol, 0.190 ml) and pyrrolidine (1.2 eq, 2.26 mmol, 161 mg) in EtOH (25 ml) was heated at relux for 36 h. The cool reaction mixture was concentrated in vacuo to give a solid that was dried in vacuo for 24 h (598 mg, 99%). 1H NMR (300 MHz, CDCl3); d 0.94 (coincident t, 6H), 1.64 (m, 2H), 1.75 (m, 4H), 1.78 (m, 2H, partially-obscured), 2.69 (m, 2H), 4.00 (m, 4H), 5.30 (s, 2H), 7.59 (s, 1H); MS: 320 (MH+).

reactant | 1,3-dipropyl-3,9-dihydro-purine-2,6-dione | 1.89 mmol, 446 mg | C(CC)N1C(N(C=2NC=NC2C1=O)CCC)=O | C11H16N4O2
reactant | formaldehyde | 2.26 mmol, 0.190 ml, 1.2 eq | C=O | CH2O
reactant | pyrrolidine | 2.26 mmol, 161 mg, 1.2 eq | N1CCCC1 | C4H9N
solvent | EtOH | 25 ml | CCO | C2H6O
product | 1,3-Dipropyl-7-pyrrolidin-1-ylmethyl-3,7-dihydro-purine-2,6-dione | C(CC)N1C(N(C=2N=CN(C2C1=O)CN1CCCC1)CCC)=O | C16H25N5O2
